* source DUMMY LOAD
V_Vcc         VCC 0 5V
R_R3         0 N14704  0.5  
V_Vss         VSS 0 {VSS}
X_X1         VSS N45179 N14704 CSD18502KCS
R_R5         N27580 PWM1  10k  
R_R6         0 N27580  4.2k  
R_R7         N28782 N27580  1k  
C_C1         0 N28782  0.1u  
V_V1         PWM 0  AC 5V
+PULSE 0V 5V 10e-9 10e-9 10e-9 {D*PER} {PER}
X_U6         PWM PWM1 Sw_tOpen PARAMS: tOpen=0 ttran=1u Rclosed=0.01 Ropen=1Meg
X_U7         PWM PWM1 Sw_tClose PARAMS: tClose=3m ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R9         N45179 N42822  10k  
R_R4         N42822 0  100k  
X_X2         VSS N45179 N14704 CSD18502KCS
D_D1         VCC N47862 D1N4007 
R_R10         0 N47862  500  
X_U8B         N50153 N14704 VCC 0 N42822 LMC662A/NS
C_C2         0 N50153  0.1u  
R_R8         N50153 N51221  1k  
X_U8A         N28782 N51221 VCC 0 N512554 LMC662A/NS
R_R11         N51221 N512554  100k  
.PARAM  per=5e-5 pw={d*per} d=0 vss=12
